US08877801B2
To a solution of (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylate (107 mg, 0.225 mmol) in DCM (5.0 mL) at 0° C. was added BBr3 (1.0 M in DCM, 0.902 mL, 0.902 mmol) dropwise. The resulting mixture was stirred at 0° C. for 100 min after which the reaction was quenched by addition of sat. aq. NaHCO3 (4 mL) and acidified to pH 3 by addition of concentrated HCl. The aqueous layer was then extracted with 5% MeOH/EtOAc (4×12 mL) and the combined organic layers were passed through a phase separator to remove water and concentrated in vacuo to afford the crude product which was dissolved in MeOH and purified by reverse phase HPLC (neutral condition, 3% 1-propanol in 1-100% CH3CN/H2O) to afford (E)-3-(4-((6-hydroxy-2-(4-hydroxyphenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylic acid (32.4 mg, 0.078 mmol, 34% yield). HRMS (m/z, MH+): 419.0872.

reactant | (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylate | 0.225 mmol, 107 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C(/C(=O)OCC)\C)C2=CC=C(C=C2)OC)C1 | C28H26O5S
reactant | BBr3 | 0.902 mmol, 1.0 M, 0.902 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (E)-3-(4-((6-hydroxy-2-(4-hydroxyphenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylic acid | 0.078 mmol, 32.4 mg, 34% yield | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C(/C(=O)O)\C)C2=CC=C(C=C2)O)C1 | C24H18O5S
